Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],1.7770421666799998
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C@:9]1([H:10])[C:11]([H:12])[H:13],0.152445138508
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[O:8][H:9].[H:6],2.3555856256
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.29422050353
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-2.20267822973
[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]([O:3][C:4][H:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.50566491113
[C:1]([H:6])([H:7])=[C:8]([H:9])[C:10]#[C:11].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11],-0.08684895494030001
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3][H:4].[H:1][C:2][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],7.9606203233200015
[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-1.79288138165
[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.52037415224
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1],7.2168686186
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3],2.91166469023
[C:9]([H:10])([H:11])[H:12].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.44937726529
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.5397922459699993
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:11]([H:12])([H:13])[H:14],0.830405131488
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16].[H:12],5.11757347042
[H:1][C:2][C:3]1[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:10]([C:9])([H:11])[H:12],0.8700740001999999
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.09429856911
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:9][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],2.5446797803
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.10742297773
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7][C:8]#[C:9][H:10],1.7023788510100002
[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][O:11][H:12].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-3.6252480672
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3],0.181472370699
[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-2.28393075388
[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:4]#[C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-5.8052916555400005
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.49521798601
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.77410086403
